data/specific_train_final.csv
"COC[O:20].[N+:10](=O)[O-]>>COC[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]1([CH:3]2[CH2:4][CH:5]1[C:6]([CH:13]([CH2:14]2)[O:15][N+:16](=[O:18])[O-:17])([CH3:19])[O:7][O:8][O:9][N+:10](=[O:12])[O-:11])[CH3:20]>>[CH3:1][C:2]1([CH:3]2[CH2:4][CH:5]1[C:6]([CH:13]([CH2:14]2)[O:15][N+:16](=[O:18])[O-:17])([CH3:19])[O:7][O:8][O:9])[CH3:20].[N+:10](=[O:12])[O-:11] 9,10-10; 9,10-9",Room Temperature,Initiation,homolyze
"CC(COC(=O)C)[O:20].[N+:10](=O)[O-]>>CC(COC(=O)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(CC)[O:20].[N+:10](=O)[O-]>>CCC(CC)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:5][CH2:4][C:3]([CH3:6])([CH2:7][CH3:8])[O:2][O:1].[N+:10](=[O:9])([O-:12])[O:11]>>[CH3:5][CH2:4][C:3]([CH3:6])([CH2:7][CH3:8])[O:2][O:1][O:11][N+:10](=[O:9])[O-:12] 1-1,11; 11-1,11",Room Temperature,Termination,recombine
"[H:11][O:10][O:9].[CH3:1][C:2](=[CH:6][CH2:7][Cl:8])[CH2:3][O:4][O:5]>>[H:11][O:5][O:4][CH2:3][C:2](=[CH:6][CH2:7][Cl:8])[CH3:1].[O:9][O:10] 5-5,11; 11,10-5,11; 11,10-10",Room Temperature,Propagation,abstraction
"CCC12[CH:10]C=CC(C1O)(OO2)C.[O:20][O]>>CCC12[CH:10](C=CC(C1O)(OO2)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCOC[C:10]=O.[O:20][O]>>CCCCOC[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](C=C(C)CO[N+](=O)[O-])OO.[OH:10]>>[H:20][OH:10].CC(=C[CH:21]OO)CO[N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:6][C:5](=[CH:7][OH:8])[C:4]([CH3:3])[CH2:9][O:10][N+:11](=[O:13])[O-:12].[O:1][O:2]>>[H:6][C:5](=[CH:7][OH:8])[C:4]([CH3:3])([CH2:9][O:10][N+:11](=[O:13])[O-:12])[O:1][O:2] 1-1,4; 4-1,4",Room Temperature,Termination,recombine
"C1C(O1)[O:20][O:21][O].[N+](=O)[O-]>>C1C(O1)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]O[O].CCCCC(=O)[O:10]>>[H:20][O:10]C(=O)CCCC.[O:21]O[O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(OCCO)[O:20][O:21]N=O>>CCCC([O:20])OCCO.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C(C)(C)[O:20][O:21][O])O>>CC(C)(C(C)(C)[O:20])O.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC(=O)C[O:20][O:21]N=O>>COC(=O)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C=C(CO[N+](=O)[O-])C(CO)O[O:20].[N:10]=O>>C=C(CO[N+](=O)[O-])C(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][O:2].[CH3:3][C:4](=[CH:10][CH2:11][OH:12])[CH2:5][O:6][N+:7](=[O:9])[O-:8]>>[H:1][O:2][CH:10]([CH2:11][OH:12])[C:4]([CH3:3])[CH2:5][O:6][N+:7](=[O:9])[O-:8] 2-2,10; 10,4-2,10; 10,4-4",Room Temperature,Propagation,addition
"[H:20][O:21][O].CCCO[O:10]>>[H:20][O:10]OCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)(CO[O:10])O>>[H:20][O:10]OCC(C)(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:10][C:6]([CH2:8][Cl:9])([O:5][O:4][O:3][N+:2](=[O:1])[O-:11])[Cl:7]>>[CH3:10][C:6]([CH2:8][Cl:9])([O:5][O:4][O:3])[Cl:7].[N+:2](=[O:1])[O-:11] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC1=C(C=CC=C1)CO[O:20].[N:10]=O>>CC1=C(C=CC=C1)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:15][O:16][O:17].[H:11][O:10][O:9][CH:8]([CH2:12][O:13][O:14])[C:3]([CH3:4])([CH:2]=[O:1])[O:5][O:6][H:7]>>[H:15][O:14][O:13][CH2:12][CH:8]([C:3]([CH3:4])([CH:2]=[O:1])[O:5][O:6][H:7])[O:9][O:10][H:11].[O:16][O:17] 15,16-14,15;15,16-16;14-14,15",Room Temperature,Propagation,abstraction
"CCC1(C=C([CH:21]=[C:20](C1O)C)C)O[O:10]>>CCC12C=C([CH:21][C:20](C1O)(C)[O:10]O2)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC(CO[N+](=O)[O-])[O:20][O:21][O]>>CCC(CO[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(=O)[CH:10]C(C1C(O1)C=O)O.[O:20][O]>>CCCC(=O)[CH:10](C(C1C(O1)C=O)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(O[O:10])Br>>[H:20][O:10]OCBr.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC([O:20])OCCO.[N+:10](=O)[O-]>>CCCC(OCCO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1CCC(C(C1)O)[O:20][O:21]N=O>>C1CCC(C(C1)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C(C)O[O:20])O[N+](=O)[O-].[N:10]=O>>CCCC(C(C)O[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC2(C(C(C1[O:20][O:21]N=O)(OO2)C)O)C>>CC1=CC2(C(C(C1[O:20])(OO2)C)O)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)(C)CO[O:10]>>[H:20][O:10]OCC(C)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
